US03978071
A mixture of 28 g of 4-(chloroacetyl)phenylacetonitrile, 70 ml of ethanol and 24 g of 2-aminopyridine is heated under reflux for 2 hours. The ethanol is distilled off under reduced pressure, and water is added to the residue. The crystalline precipitate is filtered off and recrystallized from methanol to give 21 g of 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetonitrile as colorless crystals melting at 175°-177°C with decomposition.

reactant | 4-(chloroacetyl)phenylacetonitrile | 28 g | ClCC(=O)C1=CC=C(C=C1)CC#N | C10H8ClNO
reactant | 2-aminopyridine | 24 g | NC1=NC=CC=C1 | C5H6N2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 4-(imidazo[1,2-a]pyridin-2-yl)phenylacetonitrile | 21 g | N=1C(=CN2C1C=CC=C2)C2=CC=C(C=C2)CC#N | C15H11N3
